US09212187B2
Synthesis of 2,3-dihydrobenzofuran-7-carboxylic acid methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)amide dihydrochloride
PS-Carbodiimide resin(1.3 g) and 1-hydroxy benzotriazole (HOBt) (230 mg) were added to acetonitrile and THF solution (4 ml+6 ml) of 1-methyl-6-{3-[(2-methylamino ethyl)pyridin-4-ylmethylamino]propoxy}-1H-quinolin-2-one(304 mg) and 2,3-dihydrobenzofuran-7-carboxylic acid(164 mg). The mixture was stirred at room temperature overnight. After the reaction mixture was filtrated and condensed under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=1:0→10:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.35 ml) was added to an ethyl acetate solution of the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(324.2 mg) as a white powder.

reactant | Carbodiimide | 1.3 g | N=C=N | CH2N2
reactant | 1-hydroxy benzotriazole | 230 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-methyl-6-{3-[(2-methylamino ethyl)pyridin-4-ylmethylamino]propoxy}-1H-quinolin-2-one | 304 mg | CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)CCNC)=O | C22H28N4O2
reactant | 2,3-dihydrobenzofuran-7-carboxylic acid | 164 mg | O1CCC2=C1C(=CC=C2)C(=O)O | C9H8O3
reactant | hydrogen chloride ethyl acetate | 0.35 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,3-dihydrobenzofuran-7-carboxylic acid methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]pyridin-4-ylmethylamino}ethyl)amide dihydrochloride | 324.2 mg | Cl.Cl.CN(C(=O)C1=CC=CC=2CCOC21)CCN(CC2=CC=NC=C2)CCCOC=2C=C1C=CC(N(C1=CC2)C)=O | InChI=1S/C31H34N4O4.2ClH/c1-33(31(37)27-6-3-5-24-13-20-39-30(24)27)17-18-35(22-23-11-14-32-15-12-23)16-4-19-38-26-8-9-28-25(21-26)7-10-29(36)34(28)2;;/h3,5-12,14-15,21H,4,13,16-20,22H2,1-2H3;2*1H
